Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],3.72414411847
[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.03457483024
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.7669301358
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3],0.615873473918
[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],0.8534112567899999
[H:6].[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.82045960552
[H:4].[O:1]=[C:2]([C:3]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.95882998577
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13],-2.2238325591900003
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:13],1.90664641778
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],3.81406936147
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[H:4].[O:5][C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.60458563659
[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.294165561950001
[C:6]#[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[O:11][H:12],-5.31489458716
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.5441183124
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.30944758398
[O:1]=[C:2]([H:3])[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],1.96145662327
[H:1][C:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[O:10][C:11]1([H:12])[H:13],-4.29653221425
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]1[C:7]2[C:8]([H:9])([H:10])[C@@:11]12[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7])[C:11](=[C:8]([H:9])[H:10])[H:12],1.01878894207
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.10928426304
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-4.1977168911800025
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:3],4.0136546104000015
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],3.61586113833
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[H:11].[O:6][H:7],5.84722835865
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11],-1.45867698903
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-4.07081976592
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-1.1498464512
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.647546534030001
[C:5]([H:6])([O:7][H:8])[H:11].[H:1][C:2]/[C:3]([H:4])=[C:9](\[H:10])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.02981381223
